US04659718
A solution of butyl lithium in hexane (2.7M, 13.4 ml) was added to a solution of 1,5-dimethyltetrazole (3.54 g) in dry tetrahydrofuran (83 ml) at 0° under nitrogen. The mixture was stirred for 0.5 hour and 7-ethyl-1H-3,1-benzoxazine-2,4-dione (2.3 g) was added. The mixture was allowed to warm to room temperature during 2 hours. Water (100 ml) was added. The mixture was acidified to pH 1 with hydrochloric acid (5N) and then neutralised with aqueous sodium hydroxide (5N). The mixture was extracted with dichloromethane (2×100 ml). The extract was dried and evaporated. The residue was purified by flash chromatography on Kieselgel 60 using dichloromethane:industrial methylated spirit 99:1 as the eluent. This gave the novel compound 1-(2-amino-4-ethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone in crude form as an oil.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 3.54 g | CN1N=NN=C1C | C3H6N4
reactant | 7-ethyl-1H-3,1-benzoxazine-2,4-dione | 2.3 g | C(C)C1=CC2=C(C(OC(N2)=O)=O)C=C1 | C10H9NO3
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | hexane | 2.7M, 13.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 83 ml | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
product | 1-(2-amino-4-ethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=CC(=C1)CC)C(CC1=NN=NN1C)=O | C12H15N5O
